US07608622B2
5-(3-Benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-5-yl)-2-hydroxybenzoic acid (Compound 25)
To a suspension of 5-(3-Benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-5-yl)-2-methoxybenzoic acid (105.9 mg, 0.282 mmol) in DCM (10 mL) at −78° C. was added BBr3 (1 M in DCM, 0.563 mL, 0.563 mmol) in a dropwise fashion. The mixture was allowed to warm to room temperature and stirred vigorously for 16 hours. After concentration under reduced pressure, the residue thus obtained was purified by column chromatography [silica gel; MeOH/DCM (1:9)] to give the product as a brown powder (82 mg, 80%). 1H NMR (400 MHz, DMSO): δ 12.02 (s, 1H), 8.34-8.33 (m, 2H), 7.87 (dd, J=3.0, 11.6 Hz, 1H), 7.41-7.27 (m, 5H), 6.77 (d, J=12.0 Hz, 1H), 5.07 (s, 2H). MS: 363.1 (M+H).

reactant | 5-(3-Benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-5-yl)-2-methoxybenzoic acid | 0.282 mmol, 105.9 mg | C(C1=CC=CC=C1)N1C(NC2=NC=C(N=C21)C=2C=CC(=C(C(=O)O)C2)OC)=O | C20H16N4O4
reactant | BBr3 | 0.563 mmol, 1 M, 0.563 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(3-Benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-5-yl)-2-hydroxybenzoic acid | 82 mg, 80% | C(C1=CC=CC=C1)N1C(NC2=NC=C(N=C21)C=2C=CC(=C(C(=O)O)C2)O)=O | C19H14N4O4
